US07713969B2
(±)-Trans-7-[4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester (161 mg, 0.31 mmol) and 10% palladium on carbon (100 mg) in anhydrous methanol (15 ml) were stirred under 1 atmosphere of hydrogen for 16 hours. The catalyst was then filtered through a bed of Celite and the filtrate evaporated to dryness to yield (±)-trans-3-(1H-indol-3-yl)-4-(1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-7-yl)-pyrrolidine-2,5-dione as an off white solid (95 mg). 1H NMR (DMSO-d6) 400 MHz δ: 11.04(d, 1H, J=1.6 Hz), 7.35-7.42(m, 4H), 7.24(dd, 1H, J=2.8 and 5.6 Hz), 7.09(t, 1H, J=7.2 Hz), 6.89-6.98(m, 3H), 4.52(dd, 2H, J=7.2 and 24.8 Hz), 4.11(s, 2H), 4.07-4.10(m, 2H), 3.14-3.17(m, 2H).

reactant | (±)-Trans-7-[4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester | 0.31 mmol, 161 mg | C(C1=CC=CC=C1)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)[C@@H]1C(NC([C@H]1C1=CNC2=CC=CC=C12)=O)=O | C31H26N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
product | (±)-trans-3-(1H-indol-3-yl)-4-(1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-7-yl)-pyrrolidine-2,5-dione | N1C=C(C2=CC=CC=C12)[C@@H]1C(NC([C@H]1C1=C2C=CN3C2=C(C=C1)CNCC3)=O)=O | C23H20N4O2
